US05001125
A mixture of 21 parts of N-(3-methylphenyl)-1-(phenylmethyl)-4-piperidinamine dihydrochloride, 9 parts of poly(oxymethylene), 15 parts of potassium acetate, 2 parts of a solution of thiophene in methanol 4% and 200 parts of methanol was hydrogenated at normal pressure and at room temperature with 4 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off over Hyflo and the filtrate was evaporated. From the residue, the free base was liberated with ammonium hydroxide and extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (99:1 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the hydrochloride salt in 2-propanol. The salt was filtered off and dried, yielding 2.4 parts (75%) of N-methyl-N-(3-methylphenyl)-1-(phenylmethyl)-4-piperidinamine dihydrochloride hemihydrate; mp. 201.3° C. (intermediate 96).

reactant | N-(3-methylphenyl)-1-(phenylmethyl)-4-piperidinamine dihydrochloride | Cl.Cl.CC=1C=C(C=CC1)NC1CCN(CC1)CC1=CC=CC=C1
reactant | poly(oxymethylene) | O(C[*:2])[*:1]
reactant | potassium acetate | C(C)(=O)[O-].[K+]
reactant | thiophene | S1C=CC=C1 | C4H4S
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | N-methyl-N-(3-methylphenyl)-1-(phenylmethyl)-4-piperidinamine dihydrochloride hemihydrate | 75% | O.Cl.Cl.CN(C1CCN(CC1)CC1=CC=CC=C1)C1=CC(=CC=C1)C.CN(C1CCN(CC1)CC1=CC=CC=C1)C1=CC(=CC=C1)C.Cl.Cl | InChI=1S/2C20H26N2.4ClH.H2O/c2*1-17-7-6-10-20(15-17)21(2)19-11-13-22(14-12-19)16-18-8-4-3-5-9-18;;;;;/h2*3-10,15,19H,11-14,16H2,1-2H3;4*1H;1H2
